US07179801B2
To a solution of 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-[3-amino-4-formamidomethyl-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate (97 mg) in methanol (1 ml) was added concentrated hydrochloric acid (0.1 ml) at room temperature. The mixture was stirred at room temperature for 4.5 hours and poured into ethyl acetate. The resulting precipitate was collected by filtration and dried in vacuo. The obtained powder was dissolved in a phosphate buffer (pH 7), and the solution was adjusted to about pH 6 with saturated aqueous sodium hydrogencarbonate solution. The solution containing the objective compound was purified by preparative HPLC utilizing ODS column. The eluate containing the desired product was concentrated in vacuo. The concentrate was adjusted to about pH 2 with concentrated hydrochloric acid and chromatographed on Diaion® HP-20 (Mitsubishi Chemical Corporation) eluting with 20% aqueous 2-propanol. The eluate was concentrated in vacuo and lyophilized to give 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-[3-amino-4-aminomethyl-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate (17.5 mg).

reactant | 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-[3-amino-4-formamidomethyl-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate | 97 mg | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=C(C2)CNC=O)N)CCO)C(=O)[O-])C1=O)=N/OC(C)(C)C(=O)O | C23H28N10O9S2
reactant | hydrochloric acid | 0.1 ml | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 1 ml | CO | CH4O
product | 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-[3-amino-4-aminomethyl-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate | 17.5 mg | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=C(C2)CN)N)CCO)C(=O)[O-])C1=O)=N/OC(C)(C)C(=O)O | C22H28N10O8S2
